US07253286B2
Ethyl(E)-3-[2-[(cyclopropylcarbonyl)amino]-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate
Ethyl(E)-3-[2-amino-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate (200 mg), cyclopropanecarbonyl chloride (58 mg), triethylamine (0.1 m), tetrahydrofuran (4 ml) and dimethylformamide (1 ml) were stirred at room temperature for 20 minutes. A small amount of water was added dropwise and the precipitated solid was filtered out to obtain 130 mg of a faint yellow solid.

reactant | Ethyl(E)-3-[2-amino-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate | 200 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H21FN4O4
reactant | cyclopropanecarbonyl chloride | 58 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Ethyl(E)-3-[2-[(cyclopropylcarbonyl)amino]-4-(4-{[(4-fluoroanilino)carbonyl]amino}phenoxy)-3-pyridyl]-2-propenoate | 130 mg | C1(CC1)C(=O)NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C27H25FN4O5
